US07718693B2
A solution of N,N,N′,N′-tetramethylethylenediamine (39.6 ml, 264 mmol) in tetrahydrofuran (170 ml) was cooled under argon to −70° C. before the addition of sec-butyl lithium (205 ml, 288 mmol). To the mixture 3,4-difluorobenzoic acid (19 g, 120 mmol) was then added as a solution in tetrahydrofuran (80 ml) over a period of 40 minutes ensuring that the temperature of the mixture did not rise above −60° C. The mixture was then stirred at a temperature of −68° C. to −70° C. for 1 hr before adding a solution of hexachloroethane (100 g, 422 mmol) in tetrahydrofuran (170 ml) over a period of 35 minutes whilst keeping the temperature of the mixture below −60° C. The mixture was stirred at a temperature of −65° C. to −70° C. for 2 hrs. The mixture was allowed to warm to −10° C. and then water (500 ml) was added to quench the reaction. The mixture was diluted with diethyl ether (250 ml) and the two resulting layers were separated. The aqueous layer was acidified to pH1 using concentrated aqueous hydrogen chloride and then extracted with 2×500 ml aliquots of diethyl ether. The combined organic extracts were passed through a hydrophobic frit and reduced in vacuo to give a yellow solid. This was recrystallised from ethyl acetate to give two crops (8.35 g and 4.47 g) of pure 2-chloro-3,4-difluorobenzoic acid.

reactant | N,N,N′,N′-tetramethylethylenediamine | 264 mmol, 39.6 ml | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyl lithium | 288 mmol, 205 ml | C(C)(CC)[Li]
reactant | 3,4-difluorobenzoic acid | 120 mmol, 19 g | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | hexachloroethane | 422 mmol, 100 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
product | 2-chloro-3,4-difluorobenzoic acid | 8.35 g | ClC1=C(C(=O)O)C=CC(=C1F)F | C7H3ClF2O2
